US05827855
72-(1) (4R,6R)-6-{2-[(1S,2S,8S,8aR)-1,2,6,7,8,8a-Hexahydro-8-(2-propylvaleryloxy)-2-methyl-1-naphthyl]ethyl}tetrahydro-4-t-butyldimethylsilyloxy-2H-pyran-2-one
A procedure similar to that described in Example 3, above, was followed, but using 1.0 g (2.4 mmol) of (4R,6R)-6-{2-[(1S,2S,8S,8aR)-1,2,6,7,8,8a-hexahydro-8-hydroxy-2-methyl-1-naphthyl]ethyl}tetrahydro-4-t-butyldimethylsilyloxy-2H-pyran-2-one [prepared as described in Japanese Patent Kokai Application No. Sho 59-175450] and 686 mg (4.8 mmol) of 2-propylvaleric acid, to provide 1.3 g of the title compound.

reactant | (4R,6R)-6-{2-[(1S,2S,8S,8aR)-1,2,6,7,8,8a-hexahydro-8-hydroxy-2-methyl-1-naphthyl]ethyl}tetrahydro-4-t-butyldimethylsilyloxy-2H-pyran-2-one | 2.4 mmol, 1.0 g | O[C@H]1CCC=C2C=C[C@@H]([C@@H]([C@@H]12)CC[C@@H]1C[C@H](CC(O1)=O)O[Si](C)(C)C(C)(C)C)C | C24H40O4Si
reactant | 2-propylvaleric acid | 4.8 mmol, 686 mg | C(CC)C(C(=O)O)CCC | C8H16O2
product | (4R,6R)-6-{2-[(1S,2S,8S,8aR)-1,2,6,7,8,8a-Hexahydro-8-(2-propylvaleryloxy)-2-methyl-1-naphthyl]ethyl}tetrahydro-4-t-butyldimethylsilyloxy-2H-pyran-2-one | 1.3 g | C(CC)C(C(=O)O[C@H]1CCC=C2C=C[C@@H]([C@@H]([C@@H]12)CC[C@@H]1C[C@H](CC(O1)=O)O[Si](C)(C)C(C)(C)C)C)CCC | C32H54O5Si
